US04195021
Benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-formyloxy-2-butenoate
To a solution of 0.65 ml (5 mmol) of tetramethyl guanidine and 0.15 ml (5 mmol) of formic acid in 20 ml of methylene chloride at 0° was added 563 mg (1 mmol) of benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-bromo-2-butenoate. The reaction mixture was stirred for 15 minutes at 0° and 2 hours at room temperature. Methylene chloride (100 ml) was added. The resulting solution was washed with brine (3X), dried, and evaporated in vacuo to dryness to provide the title product: nmr (CDCl3) δ 2.17 and 2.05 (s, 3, CH3), 4.92 (m, 2, --CH2O--), 3.60 (m, 2, C4 --H), 4.98 (m, 1, C3 --H), 4.48 (s, 2, side chain CH2), 7.2 (b, ArH) and 8.03 (s, 1, --OCHO).

reactant | tetramethyl guanidine | 5 mmol, 0.65 ml | CN(C(N(C)C)=N)C | C5H13N3
reactant | formic acid | 5 mmol, 0.15 ml | C(=O)O | CH2O2
reactant | benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-bromo-2-butenoate | 1 mmol, 563 mg | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(CBr)C)=O | C29H27BrN2O5
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-formyloxy-2-butenoate | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(COC=O)C)=O | C30H28N2O7
